US07723347B2
4-(Dibenzylamino)-2,6-difluorobenzoic acid
At −78° C., 10.0 g (32.3 mmol) of N,N-dibenzyl-3,5-difluoroaniline (Florvall, Lennart; Fagervall, Ingrid; Larsson, Lars-Gunnar; Ross, Svante B.; Eur. J. Med. Chem. Chim. Ther. 1999, 34, 137-152.) are initially charged in 90 ml of THF. 12.9 ml (32.3 mmol) of a 2.5 M solution of n-butyl-lithium in hexane are added dropwise, and the mixture is stirred at this temperature for 45 min. Excess dry ice is then added. The mixture is stirred at this temperature for another hour and then allowed to warm slowly to RT. Water is added to the reaction solution, which is then extracted twice with tert-butyl methyl ether. The aqueous phase is acidified with 10 ml of 4N hydrochloric acid, resulting in the formation of a precipitate. The mixture is extracted twice with dichloromethane, the combined phases are dried over sodium sulfate and the solvent is removed under reduced pressure.

reactant | N,N-dibenzyl-3,5-difluoroaniline | 32.3 mmol, 10.0 g | C(C1=CC=CC=C1)N(C1=CC(=CC(=C1)F)F)CC1=CC=CC=C1 | C20H17F2N
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | Water | O | H2O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(Dibenzylamino)-2,6-difluorobenzoic acid | C(C1=CC=CC=C1)N(C1=CC(=C(C(=O)O)C(=C1)F)F)CC1=CC=CC=C1 | C21H17F2NO2
